US07858621B2
2-Chloro-N-methoxy-N-methyl-6-trifluoromethyl-nicotinamide (1.2 g, 4.52 mmol) was reacted with (trimethylsilyl)acetylene (0.689 ml, 4.97 mmol) to give N-methoxy-N-methyl-6-trifluoromethyl-2-trimethylsilanylethynyl-nicotinamide (896 mg, 60%).

reactant | 2-Chloro-N-methoxy-N-methyl-6-trifluoromethyl-nicotinamide | 4.52 mmol, 1.2 g | ClC1=C(C(=O)N(C)OC)C=CC(=N1)C(F)(F)F | C9H8ClF3N2O2
reactant | (trimethylsilyl)acetylene | 4.97 mmol, 0.689 ml | C[Si](C)(C)C#C | C5H10Si
product | N-methoxy-N-methyl-6-trifluoromethyl-2-trimethylsilanylethynyl-nicotinamide | 896 mg, 60% | CON(C(C1=C(N=C(C=C1)C(F)(F)F)C#C[Si](C)(C)C)=O)C | C14H17F3N2O2Si
